US05703243
To a solution of (2S,4S)-1-t-butoxycarbonyl-2-phthalimidomethyl-4-acetylthiopyrrolidine (8.58 g) in a mixture of dichloromethane (26 ml) and methanol (129 ml), hydrazine hydrate (4.11 ml) is added. The mixture is heated to reflux for 2 hours and 45 minutes and filtered. The filtrate is concentrated in vacuo. The residue is dissolved in dichloromethane, washed with water, dried over sodium sulfate, and concentrated in vacuo to give crude (2S,4S)-1-t-butoxycarbonyl-2-aminomethyl-4-mercaptopyrrolidine (4.1 g). Yellow syrup.

reactant | (2S,4S)-1-t-butoxycarbonyl-2-phthalimidomethyl-4-acetylthiopyrrolidine | 8.58 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C20H24N2O5S
reactant | hydrazine hydrate | 4.11 ml | O.NN
solvent | dichloromethane | 26 ml | ClCCl | CH2Cl2
solvent | methanol | 129 ml | CO | CH4O
product | (2S,4S)-1-t-butoxycarbonyl-2-aminomethyl-4-mercaptopyrrolidine | 4.1 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)S)CN | C10H20N2O2S
